US05691435
An example is the reaction of acetylene with HSiCl3 to give Cl3 SiCH2CH2SiCl3 in the first step of the process. An intermediate produced is CH2 =CHSiCl3, which can be used as starting material in place of acetylene and, when reacted with HSiCl3, leads to the same end product of the first step of the process, Cl3SiCH2CH2SiCl3.

reactant | acetylene | C#C | C2H2
reactant | HSiCl3 | [SiH](Cl)(Cl)Cl | Cl3HSi
product | Cl3 SiCH2CH2SiCl3 | [Si](Cl)(Cl)(Cl)CC[Si](Cl)(Cl)Cl | C2H4Cl6Si2
